US06500863B1
N-[3-[N″-(2-hydroxyethyl)aminosulfonyl]4-chloro-2-hydroxyphenyl]-N′-(2,3-dichlorophenyl) urea
To a solution of N-[3-[N″-(2-benzyloxyethyl)aminosulfonyl]4-chloro-2-hydroxyphenyl]-N′-(2,3-dichlorophenyl) urea (46 mg, 0.08 mmol) in 3mL of dichloromethane was added iodotrimethylsilane (38 mg, 0.19 mmol). The mixture was stirred for 16 hours at room temperature. Purification by column chromatography on silica gel, eluting with ethyl acetate/hexane (60/40, v/v), gave the desired product (14 mg, 37%). LC-MS (m/z) 455.8 (M+).

reactant | N-[3-[N″-(2-benzyloxyethyl)aminosulfonyl]4-chloro-2-hydroxyphenyl]-N′-(2,3-dichlorophenyl) urea | 0.08 mmol, 46 mg | C(C1=CC=CC=C1)OCCNS(=O)(=O)C=1C(=C(C=CC1Cl)NC(=O)NC1=C(C(=CC=C1)Cl)Cl)O | C22H20Cl3N3O5S
reactant | iodotrimethylsilane | 0.19 mmol, 38 mg | I[Si](C)(C)C | C3H9ISi
solvent | dichloromethane | 3mL | ClCCl | CH2Cl2
product | N-[3-[N″-(2-hydroxyethyl)aminosulfonyl]4-chloro-2-hydroxyphenyl]-N′-(2,3-dichlorophenyl) urea | 14 mg, 37% | OCCNS(=O)(=O)C=1C(=C(C=CC1Cl)NC(=O)NC1=C(C(=CC=C1)Cl)Cl)O | C15H14Cl3N3O5S
